US05028254
Production of 2-(4-chlorobenzyl)-5-methyl-1-cyclopentanone (the intermediate compound No. 137 of Table 4)
Into 126 ml of anhydrous benzene, 3.04 g of sodium hydride (prepared by washing 60 % oily sodium hydride with anhydrous benzene) were added, and then 18 g of methyl 3-methyl-2-oxocyclopentanecarboxylate were added to the thus formed mixture. After stirring the whole mixture for one hour at room temperature, 21.5 g of 4-chlorobenzyl chloride were added to the mixture and the thus obtained mixture was refluxed for 6 hours in an oil bath at 90° C.

reactant | sodium hydride | 3.04 g | [H-].[Na+]
reactant | methyl 3-methyl-2-oxocyclopentanecarboxylate | 18 g | CC1C(C(CC1)C(=O)OC)=O | C8H12O3
reactant | 4-chlorobenzyl chloride | 21.5 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | benzene | 126 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-chlorobenzyl)-5-methyl-1-cyclopentanone | ClC1=CC=C(CC2C(C(CC2)C)=O)C=C1 | C13H15ClO
